US08222246B2
d) (E)-(3-(5-Fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methanol
To a solution of (E)-3-(5-fluoropyridin-2-yl)-5-styrylisoxazole-4-carboxylic acid (1.2 g, 3.7 mmol) and triethylamine (0.52 mL, 3.7 mmol) in THF (30 mL) was added dropwise at room temperature a solution of ethyl chloroformate (0.36 mL, 3.7 mmol) in THF (4 mL). After 1 h the triethylamine hydrochloride salt was filtered off and washed with a small amount of THF. The filtrate was added to a solution of sodium borohydride (354 mg, 9.4 mmol) in water (3.5 mL). After stirring for 1 h at 5° C. aqueous sodium hydroxide (1 M, 11 mL) was added. Extraction with ethyl acetate, drying over sodium sulfate, filtering and evaporation of the solvent followed by trituration with diisopropylether afforded the title compound (895 mg, 81%) as a white solid after purification by chromatography (SiO2, DCM). MS: m/e=297.2 [M+H]+.

reactant | (E)-3-(5-fluoropyridin-2-yl)-5-styrylisoxazole-4-carboxylic acid | 3.7 mmol, 1.2 g | FC=1C=CC(=NC1)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C17H11FN2O3
reactant | triethylamine | 3.7 mmol, 0.52 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.7 mmol, 0.36 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 9.4 mmol, 354 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1 M, 11 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 3.5 mL | O | H2O
product | (E)-(3-(5-Fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methanol | 895 mg, 81% | FC=1C=CC(=NC1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C17H13FN2O2
